US09163021B2
N-(5-{[1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-[3-(trifluoromethyl)phenyl]acetamide
Prepared according to Method 1 (Example 19) using (5-aminopyridin-3-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Preparation 28), 3-trifluoromethylphenylacetic acid and DIPEA. The residue was purified using silica gel column chromatography eluting with 80% EtOAc in hexane followed by acid deprotection using 10% HCl in dioxane at room temperature for 18 hours. The reaction was concentrated in vacuo and purified using preparative HPLC to afford the title compound.

reactant | (5-aminopyridin-3-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
reactant | 3-trifluoromethylphenylacetic acid | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
product | N-(5-{[1-(1-hydroxy-2-methylpropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-[3-(trifluoromethyl)phenyl]acetamide | OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=C(C=NC2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O | C26H23F3N4O3
